US20010012901A1
A suspension of 2-hydroxy-3,4,6-trimethylbenzaldehyde (16.45 g), diethyl isopropylidenemalonate (20.05 g), and anhydrous potassium carbonate (40.10 g) in dimethylformamide (DMF) (11) was heated at 130-135° C. for 8 hours. After removing the solvent under reduced pressure, the mixture was diluted with water, and extracted with ethyl acetate (AcOEt). The organic phase was washed with water and brine, dried over magnesium sulfate (MgSO4), and evaporated to give a residue. The residue was purified by chromatography over silica gel (AcOEt-hexane 3:97 as eluent) to give ethyl (2,5,7,8-tetramethyl-2H-chromen-2-yl)acetate as an oil (22.45 g).

reactant | 2-hydroxy-3,4,6-trimethylbenzaldehyde | 16.45 g | OC1=C(C=O)C(=CC(=C1C)C)C | C10H12O2
reactant | diethyl isopropylidenemalonate | 20.05 g | C(C)(C)=C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | potassium carbonate | 40.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl (2,5,7,8-tetramethyl-2H-chromen-2-yl)acetate | 22.45 g | CC1(OC2=C(C(=CC(=C2C=C1)C)C)C)CC(=O)OCC | C17H22O3
